US08530475B2
4-(2,5-Dimethyl-1H-indol-4-yl)-1-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-butan-2-ol
2,5-Dimethyl-4-(2-oxiranyl-ethyl)-1H-indole (50 mg, 0.23 mmol), Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene (45 mg, 0.17 mmol), DIPEA (0.1 mL, 0.55 mmol), ethanol (3 mL) were heated for 900 sec. at 120° C. in a μW reaction tube. The solvent was evaporated under reduced pressure to yield a crude solid that was purified with flash chromatography gradient [20% Ethyl acetate/heptane to 100% Ethyl acetate] to yield the title compound as a residue.

reactant | 2,5-Dimethyl-4-(2-oxiranyl-ethyl)-1H-indole | 0.23 mmol, 50 mg | CC=1NC2=CC=C(C(=C2C1)CCC1OC1)C | C14H17NO
reactant | Z-(1S,6S)-7-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.17 mmol, 45 mg | C1=C(C=CC2=CC=CC=C12)N1[C@H]2C\C=C/C[C@@H](C1)NC2 | C18H20N2
reactant | DIPEA | 0.55 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(2,5-Dimethyl-1H-indol-4-yl)-1-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-butan-2-ol | CC=1NC2=CC=C(C(=C2C1)CCC(CN1C2CC=CCC(C1)N(C2)C2=CC1=CC=CC=C1C=C2)O)C | C32H37N3O
